US05330985
N-[2-[[4-(Aminocarbonyl)pyrimidin-2-yl]amino]ethyl]-2-[[3-[[2-(2-methoxyphenoxy)ethyl]methylamino]propyl]amino]pyrimidine-4-carboxamide
3.0 g (7.45 mmol) of N-(2-aminoethyl)-2-[[3-[[2-(2-methoxyphenoxy) ethyl]methylamino]propyl]amino]-pyrimidine-4-carboxamide, 1.23 g (7.8 mmol) of 2-chloropyrimidine-4-carboxamide, 1.55 g (11.2 mmol) of potassiumcarbonate and 0.1 g of sodium iodide are introduced into 40 ml of N,N-dimethylformamide in a 0.25 l, three-necked, round-bottomed flask and the reaction mixture is heated at 60° C. for 15 h. The mixture is cooled to room temperature and the reaction product is poured onto 100 ml of water and extracted with ethyl acetate (3×100 ml). The organic phase is washed with water, dried over sodium sulphate, filtered and the solvents are evaporated under reduced pressure. After recrystallisation from ethyl acetate, 1.95 g of compound are obtained.

reactant | N-(2-aminoethyl)-2-[[3-[[2-(2-methoxyphenoxy) ethyl]methylamino]propyl]amino]-pyrimidine-4-carboxamide | 7.45 mmol, 3.0 g | NCCNC(=O)C1=NC(=NC=C1)NCCCN(C)CCOC1=C(C=CC=C1)OC | C20H30N6O3
reactant | 2-chloropyrimidine-4-carboxamide | 7.8 mmol, 1.23 g | ClC1=NC=CC(=N1)C(=O)N | C5H4ClN3O
reactant | potassiumcarbonate | 11.2 mmol, 1.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.1 g | [I-].[Na+]
solvent | water | 100 ml | O | H2O
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | N-[2-[[4-(Aminocarbonyl)pyrimidin-2-yl]amino]ethyl]-2-[[3-[[2-(2-methoxyphenoxy)ethyl]methylamino]propyl]amino]pyrimidine-4-carboxamide | NC(=O)C1=NC(=NC=C1)NCCNC(=O)C1=NC(=NC=C1)NCCCN(C)CCOC1=C(C=CC=C1)OC | C25H33N9O4
